US03992441
N-[2-chloro-5-(cis-3,5-dimethylpiperidinosulfonyl)benzoyl]glycine
2-Chloro-5-(cis-3,5-dimethylpiperidinosulfonyl)benzoyl chloride (2.4 g.) and glycine (525 mg.) are dissolved in 30 ml. of water, 30 ml. of acetone and 14 ml of 1N sodium hydroxide. After stirring at room temperature for about 25 minutes, the reaction mixture is acidified with concentrated hydrochloric acid. The precipitated material is recrystallized from acetone (25 ml.)-hexane (40 ml.) to yield the product, m.p. 189.5°-191.5° C.

reactant | 2-Chloro-5-(cis-3,5-dimethylpiperidinosulfonyl)benzoyl chloride | 2.4 g | ClC1=C(C(=O)Cl)C=C(C=C1)S(=O)(=O)N1C[C@H](C[C@H](C1)C)C | C14H17Cl2NO3S
reactant | glycine | 525 mg | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | 1N, 14 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-[2-chloro-5-(cis-3,5-dimethylpiperidinosulfonyl)benzoyl]glycine | ClC1=C(C(=O)NCC(=O)O)C=C(C=C1)S(=O)(=O)N1C[C@H](C[C@H](C1)C)C | C16H21ClN2O5S
